NGSPCIE Netlist Integrating the CLA with the Flip FLops

.include "TSMC_180nm.txt"
.param SUPPLY = 1.8
.param LAMBDA = 0.09u
.param width_N = {20 * LAMBDA} ; Vary the width (1)
.param width_P = {2 * width_N} ; Assuming ratio of mobilites is 2, change it (2)
.global gnd vdd

.include "Subcircuits.cir"
.include "FF_Ckt.cir"

.subckt Final clk A3 A2 A1 A0 B3 B2 B1 B0 Cin C_out_FF S3_FF S2_FF S1_FF S0_FF high low

    XFF_A3 A3 A3_FF clk high low TSPC_FF
    XFF_A2 A2 A2_FF clk high low TSPC_FF
    XFF_A1 A1 A1_FF clk high low TSPC_FF
    XFF_A0 A0 A0_FF clk high low TSPC_FF

    XFF_B3 B3 B3_FF clk high low TSPC_FF
    XFF_B2 B2 B2_FF clk high low TSPC_FF
    XFF_B1 B1 B1_FF clk high low TSPC_FF
    XFF_B0 B0 B0_FF clk high low TSPC_FF

    XFF_Cin Cin Cin_FF clk high low TSPC_FF

    XCarry_Sum_Logic A3_FF A2_FF A1_FF A0_FF B3_FF B2_FF B1_FF B0_FF Cin_FF Cout S3 S2 S1 S0 high low Carry_Sum_Logic

    XFF_Cout Cout C_out_FF clk high low TSPC_FF

    XFF_S3 S3 S3_FF clk high low TSPC_FF
    XFF_S2 S2 S2_FF clk high low TSPC_FF
    XFF_S1 S1 S1_FF clk high low TSPC_FF
    XFF_S0 S0 S0_FF clk high low TSPC_FF

.ends Final

Vdd vdd gnd 'SUPPLY'

* vin in+ in- pulse VLow VHigh delay rise-time fall-time on-period time-period
VClk clk_line gnd pulse SUPPLY 0 0 1p 1p 0.25ns 0.5ns ; No Skew Currently, add a skew for practical measurements (3)

* VA3 A3 gnd pulse SUPPLY 0 0 1p 1p 160ns 320ns
* VA2 A2 gnd pulse SUPPLY 0 0 1p 1p 80ns 160ns
* VA1 A1 gnd pulse SUPPLY 0 0 1p 1p 40ns 80ns
* VA0 A0 gnd pulse SUPPLY 0 0 1p 1p 20ns 40ns

* VB3 B3 gnd pulse SUPPLY 0 10n 1p 1p 160ns 320ns
* VB2 B2 gnd pulse SUPPLY 0 10n 1p 1p 80ns 160ns
* VB1 B1 gnd pulse SUPPLY 0 10n 1p 1p 40ns 80ns
* VB0 B0 gnd pulse SUPPLY 0 10n 1p 1p 20ns 40ns

* VCin Cin gnd 1

* Finding the highest Frequency of operation - 8 and 1
VA3 A3 gnd pulse 0 SUPPLY 0.125n 1p 1p 0.5ns 1ns
VA2 A2 gnd 0
VA1 A1 gnd 0
VA0 A0 gnd 0

VB3 B3 gnd 0
VB2 B2 gnd 0
VB1 B1 gnd 0
VB0 B0 gnd pulse 0 SUPPLY 0.125n 1p 1p 0.5ns 1ns

VCin Cin gnd 0

* 0110 + 0111 + 1 = 01110
* 6 + 7 + 1 = 14

* VA3 A3 gnd 0
* VA2 A2 gnd 'SUPPLY'
* VA1 A1 gnd 'SUPPLY'
* VA0 A0 gnd 0

* VB3 B3 gnd 0
* VB2 B2 gnd 0
* VB1 B1 gnd 0
* VB0 B0 gnd 0

* VCin Cin gnd 'SUPPLY'

XFinal clk_line A3 A2 A1 A0 B3 B2 B1 B0 Cin C_out_FF S3_FF S2_FF S1_FF S0_FF vdd gnd Final

.measure tran C_out FIND V(C_out_FF) AT = 50n
.measure tran S3 FIND V(S3_FF) AT = 50n
.measure tran S2 FIND V(S2_FF) AT = 50n
.measure tran S1 FIND V(S1_FF) AT = 50n
.measure tran S0 FIND V(S0_FF) AT = 50n

* .measure tran trise
* + TRIG V(Q) VAL = 'SUPPLY / 10' TD = 5ns TO = 15ns RISE = 1
* + TARG V(Q) VAL = '9 * SUPPLY / 10' TD = 5ns TO = 15ns RISE = 1

* .measure tran tfall
* + TRIG V(Q) VAL = '9 * SUPPLY / 10' TD = 25ns TO = 35ns FALL = 1
* + TARG V(Q) VAL = 'SUPPLY / 10' TD = 25ns TO = 35ns FALL = 1

* .measure tran delay param = '(trise + tfall) / 2'

* .measure tran tcqrise
* + TRIG V(clk_line) VAL = 'SUPPLY / 2' RISE = 1
* + TARG V(Q) VAL = 'SUPPLY / 2' RISE = 1

* .measure tran tcqfall
* + TRIG V(clk_line) VAL = 'SUPPLY / 2' RISE = 2
* + TARG V(Q) VAL = 'SUPPLY / 2' FALL = 1

* .measure tran tcq param = '(tcqrise + tcqfall) / 2'

.tran 1p 5n

.ic V(C_out_FF) = 0
.ic V(S3_FF) = 0
.ic V(S2_FF) = 0
.ic V(S1_FF) = 0
.ic V(S0_FF) = 0

.control

run
set hcopypscolor = 1
set color0 = white
set color1 = black
set curplottitle = "Siddarth Gottumukkula 2023102040"
set xbrushwidth = 3

let clock = 'clk_line + 28'

let in_A3 = 'A3 + 26'
let in_A2 = 'A2 + 24'
let in_A1 = 'A1 + 22'
let in_A0 = 'A0 + 20'

let in_B3 = 'B3 + 18'
let in_B2 = 'B2 + 16'
let in_B1 = 'B1 + 14'
let in_B0 = 'B0 + 12'

let in_Cin = 'Cin + 10'

let out_Cout = 'C_out_FF + 8'
let out_S3 = 'S3_FF + 6'
let out_S2 = 'S2_FF + 4'
let out_S1 = 'S1_FF + 2'
let out_S0 = 'S0_FF'

plot clock in_A3 in_A2 in_A1 in_A0 in_B3 in_B2 in_B1 in_B0 in_Cin out_Cout out_S3 out_S2 out_S1 out_S0
* plot clock out_Cout out_S3 out_S2 out_S1 out_S0

.endc

.end